US06727264B1
N-(2-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure AA and Scheme AJ using 9-ethyl-9H-carbazole-3-carbaldehyde and 2-methyl-N-[2-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 454.1 (M+H)+.

reactant | 9-ethyl-9H-carbazole-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
reactant | 2-methyl-N-[2-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=C(C=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(2-{1-[(9-ETHYL-9H-CARBAZOL-3-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)CN1CCC(CC1)C1=C(C=CC=C1)NC(C(C)C)=O | C30H35N3O
